US04309426
11.17 g of 2,4-dichlorophenacyl chloride and 5.755 g of 4-methyl-thiosemicarbazide are reacted in 200 ml of methanol using the procedure of Example 2. The initial crystallization is made from methanol/ethyl acetate. The solid is then recrystallized from methanol/ethyl acetate and dried at 65° C. under high vacuum to produce 5-(2,4-dichlorophenyl)-N-methyl-6H-1,3,4-thiadiazin-2-amine monohydrochloride. m.p. 195° C.

reactant | 2,4-dichlorophenacyl chloride | 11.17 g | ClC1=C(C(CCl)=O)C=CC(=C1)Cl | C8H5Cl3O
reactant | 4-methyl-thiosemicarbazide | 5.755 g | CNC(NN)=S | C2H7N3S
solvent | methanol | 200 ml | CO | CH4O
product | 5-(2,4-dichlorophenyl)-N-methyl-6H-1,3,4-thiadiazin-2-amine monohydrochloride | Cl.ClC1=C(C=CC(=C1)Cl)C1=NN=C(SC1)NC | InChI=1S/C10H9Cl2N3S.ClH/c1-13-10-15-14-9(5-16-10)7-3-2-6(11)4-8(7)12;/h2-4H,5H2,1H3,(H,13,15);1H
